US07459451B2
To a ice-cooled solution of 1-ethyl-6-hydroxy-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridine-5-carbonitrile (560 mg) and Et3N (446 mg) in DCM (8.4 ml) was added trifluoromethanesulfonic anhydride (566 mg) and stirred for 4 hours at room temperature. The resulting solution was washed with water and brine, dried over MgSO4. The solvent was evaporated and the residue was purified with silica gel column chromatography (CHCl3-MeOH 1-3%) to give 5-cyano-1-ethyl-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-6-yl trifluoromethanesulfonate (750 mg) as a yellow solid.

reactant | 1-ethyl-6-hydroxy-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridine-5-carbonitrile | 560 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)C#N)O | C15H13N5O
reactant | Et3N | 446 mg | CCN(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 566 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 8.4 ml | C(Cl)Cl | CH2Cl2
product | 5-cyano-1-ethyl-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-6-yl trifluoromethanesulfonate | 750 mg | FC(S(=O)(=O)OC1=C(C(=C2C(=N1)N(N=C2)CC)C=2C=NC=C(C2)C)C#N)(F)F | C16H12F3N5O3S
